US05969138
Preparation of (R)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone dihydrobromide(Table 3; Compound No. 11; (R)-isomer)
To a mixture of 379 mg of 47% hydrobromic acid aq. and 10 mL of ethanol was added a solution of 352 mg of (R)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone in 10 mL of ethanol. The mixture was stirred at room temperature and then cooled. The precipitated solid was filtered and dried to give 488 mg of the title compound.

reactant | hydrobromic acid | 379 mg | Br | BrH
reactant | (R)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone | 352 mg | ClC1=CC=C(C=C1)N1C([C@H](CC1)CN1CCN(CC1)CCOC)=O | C18H26ClN3O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (R)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone dihydrobromide | 488 mg | Br.Br.ClC1=CC=C(C=C1)N1C([C@H](CC1)CN1CCN(CC1)CCOC)=O | InChI=1S/C18H26ClN3O2.2BrH/c1-24-13-12-20-8-10-21(11-9-20)14-15-6-7-22(18(15)23)17-4-2-16(19)3-5-17;;/h2-5,15H,6-14H2,1H3;2*1H/t15-;;/m1../s1
